US06995144B2
1-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-cyanophenyl)ethanone
After dissolving 298 mg of 2-(2-bromophenyl)-1-[1-(3-tert-butoxy-2-pyrazinylmethyl)piperidin-4-yl]ethanone in 2 ml of N,N-dimethylformamide, 235 mg of zinc cyanide and 77 mg of tetrakis(triphenylphosphine)palladium(0) were added and the mixture was stirred overnight at 100° C. A 1N sodium hydroxide solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (90 mg, 34% yield).

reactant | 2-(2-bromophenyl)-1-[1-(3-tert-butoxy-2-pyrazinylmethyl)piperidin-4-yl]ethanone | 298 mg | BrC1=C(C=CC=C1)CC(=O)C1CCN(CC1)CC1=NC=CN=C1OC(C)(C)C | C22H28BrN3O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
catalyst | zinc cyanide | 235 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 77 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-[1-(3-tert-Butoxy-2-pyrazinylmethyl)piperidin-4-yl]-2-(2-cyanophenyl)ethanone | 90 mg, 34% yield | C(C)(C)(C)OC=1C(=NC=CN1)CN1CCC(CC1)C(CC1=C(C=CC=C1)C#N)=O | C23H28N4O2
